US03979513
1'-Allyl-4-methoxy-9,10-dihydroanthracene-9-spiro-4'-piperidine maleate (7.2 g.) in glacial acetic acid (20 ml.) is treated dropwise with stirring with chromium trioxide [60 ml. of a solution of CrO3 (21 g.) in glacial acetic acid (190 ml.) and water (10 ml.)]. The reaction mixture is stirred for 3 hours, diluted with water, basified (NaOH), and extracted with ether. The ether extract is washed with water and with brine, dried (MgSO4) and evaporated to give a solid which is recrystallised from cyclohexane to give 1'-allyl-4-methoxy-10-oxo-9,10-dihydroanthracene-9-spiro-4'-piperidine, m.p. 115-117°C.

reactant | 1'-Allyl-4-methoxy-9,10-dihydroanthracene-9-spiro-4'-piperidine maleate | 7.2 g | C(\C=C/C(=O)O)(=O)O.C(C=C)N1CCC2(CC1)C1=CC=CC=C1CC=1C(=CC=CC12)OC
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 190 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | 1'-allyl-4-methoxy-10-oxo-9,10-dihydroanthracene-9-spiro-4'-piperidine | C(C=C)N1CCC2(CC1)C1=CC=CC=C1C(C=1C(=CC=CC12)OC)=O | C22H23NO2
